US04888439
N-(2,6,10,14,18-pentamethyl-22-oxo-2,6,10,14,18-tricosapentaenoyl)diethylamine
Starting materials: 2,6,10,14,18-pentamethyl-22-oxo-2,6,10,14,18-tricosapentaenoic acid and diethylamine

reactant | 2,6,10,14,18-pentamethyl-22-oxo-2,6,10,14,18-tricosapentaenoic acid | CC(C(=O)O)=CCCC(=CCCC(=CCCC(=CCCC(=CCCC(C)=O)C)C)C)C | C28H44O3
reactant | diethylamine | C(C)NCC | C4H11N
product | N-(2,6,10,14,18-pentamethyl-22-oxo-2,6,10,14,18-tricosapentaenoyl)diethylamine | CC(C(=O)N(CC)CC)=CCCC(=CCCC(=CCCC(=CCCC(=CCCC(C)=O)C)C)C)C | C32H53NO2
